US09359381B2
Step 7: Diastereoisomeric mixture of 9-(4-chlorothiazol-2-yl)-5-(3-fluorophenyl)-7-(hydroxymethyl)-1,3-dimethyl-8,9-dihydro-1H-pyrimido[4,5-a]pyrrolizine-2,4(3H,7H)-dione
Trifluoroacetic acid (2 mL, 26.0 mmol) was added to a solution of 7-(((tert-butyldimethylsilyl)oxy)methyl)-9-(4-chlorothiazol-2-yl)-5-(3-fluorophenyl)-1,3-dimethyl-8,9-dihydro-1H-pyrimido[4,5-a]pyrrolizine-2,4(3H,7H)-dione (570 mg, 0.991 mmol) in methanol (20 mL) and water (3 mL). The mixture stirred at room temperature 20 mins. Further portions of water (1 mL) and trifluoroacetic acid (1 mL) were added and the mixture stirred for a further 3 hours. The reaction was quenched with saturated NaHCO3(aq) and extracted with chloroform (3×). The combined organic extracts were passed through a hydrophobic frit and evaporated under vacuum. Purification by chromatography on silica, eluting with 0-100% EtOAc/hexane afforded the title compounds as a mixture of diastereomers.

reactant | Trifluoroacetic acid | 26.0 mmol, 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 7-(((tert-butyldimethylsilyl)oxy)methyl)-9-(4-chlorothiazol-2-yl)-5-(3-fluorophenyl)-1,3-dimethyl-8,9-dihydro-1H-pyrimido[4,5-a]pyrrolizine-2,4(3H,7H)-dione | 0.991 mmol, 570 mg | [Si](C)(C)(C(C)(C)C)OCC1N2C(=C3C(=C2C(C1)C=1SC=C(N1)Cl)N(C(N(C3=O)C)=O)C)C3=CC(=CC=C3)F | C27H32ClFN4O3SSi
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 3 mL | O | H2O
solvent | water | 1 mL | O | H2O
product | 9-(4-chlorothiazol-2-yl)-5-(3-fluorophenyl)-7-(hydroxymethyl)-1,3-dimethyl-8,9-dihydro-1H-pyrimido[4,5-a]pyrrolizine-2,4(3H,7H)-dione | ClC=1N=C(SC1)C1CC(N2C(=C3C(=C12)N(C(N(C3=O)C)=O)C)C3=CC(=CC=C3)F)CO | C21H18ClFN4O3S
